US07632865B2
Preparation of N-(4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenyl)-4-chloronicotinamide
A solution of 150 mg of 4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)aniline and 116 mg of triethylamine in 5 mL of tetrahydrofuran was stirred with 100 mg of 4-chloronicotinoyl chloride hydrochloride for about 50 minutes, and after addition of water, the precipitated crystals were recovered by filtration. The recovered crystals were washed with ether and dried to 106 mg of N-(4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenyl)-4-chloronicotinamide having a melting point of 178-180° C. (decomposition).

reactant | 4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)aniline | 150 mg | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(N)C=C1 | C12H8ClF3N2O
reactant | triethylamine | 116 mg | C(C)N(CC)CC | C6H15N
reactant | 4-chloronicotinoyl chloride hydrochloride | 100 mg | Cl.ClC1=CC=NC=C1C(=O)Cl
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-(4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenyl)-4-chloronicotinamide | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C=C1)NC(C1=CN=CC=C1Cl)=O | C18H10Cl2F3N3O2
